US05064833
2-(2-Methylphenylamino)-4-quinazolone (5.0 g, 0.0198 mol) was dissolved in phosphoryl chloride (20 ml, 0.216 mol) and N,N-dimethylaniline (3.5 ml, 0.025 mol) and refluxed for 3/4 hours. The reaction mixture was poured onto ice/N NaoH (100 ml) and the precipitate washed and dried to give 4-chloro-2-(2-methylphenylamino)quinazoline hydrochloride (5.79 g, 95%), used without purification.

reactant | 2-(2-Methylphenylamino)-4-quinazolone | 0.0198 mol, 5.0 g | CC1=C(C=CC=C1)NC1=NC2=CC=CC=C2C(N1)=O | C15H13N3O
reactant | phosphoryl chloride | 0.216 mol, 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 0.025 mol, 3.5 ml | CN(C1=CC=CC=C1)C | C8H11N
product | 4-chloro-2-(2-methylphenylamino)quinazoline hydrochloride | 5.79 g, 95% | Cl.ClC1=NC(=NC2=CC=CC=C12)NC1=C(C=CC=C1)C | InChI=1S/C15H12ClN3.ClH/c1-10-6-2-4-8-12(10)17-15-18-13-9-5-3-7-11(13)14(16)19-15;/h2-9H,1H3,(H,17,18,19);1H
